US04851519
1.25 of 1M sodium hydroxide solution were added to 0.255 g of 5'-amino-2',5'-dideoxy-5-ethyluridine in 5 ml of water and then 0.2 g of 2-phenylbutyryl chloride was added to the mixture. The resulting mixture was shaken for 10 minutes, whereby a white solid was deposited. This solid was collected by filtration, washed three times with 5 ml of water each time, dried at 50° C. in vacuo over phosphorus pentoxide and recrystallized from ethanol to give 0.28 g of 2',5'-dideoxy-5-ethyl-5'-(2-phenylbutyramido)uridine of melting point 235°-236° C.

reactant | sodium hydroxide | 1M | [OH-].[Na+]
reactant | 5'-amino-2',5'-dideoxy-5-ethyluridine | 0.255 g | NC[C@@H]1[C@H](C[C@@H](O1)N1C(=O)NC(=O)C(=C1)CC)O | C11H17N3O4
reactant | 2-phenylbutyryl chloride | 0.2 g | C1(=CC=CC=C1)C(C(=O)Cl)CC | C10H11ClO
solvent | water | 5 ml | O | H2O
product | 2',5'-dideoxy-5-ethyl-5'-(2-phenylbutyramido)uridine | 0.28 g | C(C)C=1C(NC(N([C@H]2C[C@H](O)[C@@H](CNC(C(CC)C3=CC=CC=C3)=O)O2)C1)=O)=O | C21H27N3O5
